US08071600B2
3-methoxy-2-methoxymethoxy-5-(2-oxopyrrolidin-1-yl)benzaldehyde (0.72 g, 2.56 mmol) was dissolved in a solvent mixture of acetic acid (5 ml) and ethanol (7 ml) and 10% palladium carbon (70 mg) was added thereto to perform catalytic reduction at 50° C. for 10 hours. The reaction solution was cooled to room temperature and filtrated by cerite. The filtered cake was concentrated under reduced pressure. The residue thus obtained was dissolved in dichloromethane (15 ml) and trifluoroacetic acid (2.0 ml, 25.6 mmol) and triethylsilane (2.0 ml, 12.8 mmol) were added thereto under ice cooling. The mixture was stirred at room temperature for 16 hours. The mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1→ethyl acetate). The purified product was concentrated under reduced pressure to obtain 1-(4-hydroxy-3-methoxy-5-methylphenyl)pyrrolidin-2-one (0.41 g) as light yellow oil.

reactant | 3-methoxy-2-methoxymethoxy-5-(2-oxopyrrolidin-1-yl)benzaldehyde | 2.56 mmol, 0.72 g | COC=1C(=C(C=O)C=C(C1)N1C(CCC1)=O)OCOC | C14H17NO5
reactant | trifluoroacetic acid | 25.6 mmol, 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 12.8 mmol, 2.0 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | palladium carbon | 70 mg | [C].[Pd]
product | 1-(4-hydroxy-3-methoxy-5-methylphenyl)pyrrolidin-2-one | 0.41 g | OC1=C(C=C(C=C1C)N1C(CCC1)=O)OC | C12H15NO3
